* SpiceNetList
* 
* Exported from schematic1.sch at 29-05-2018 19:57
* 
* EAGLE Version 9.0.1 Copyright (c) 1988-2018 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R1 N_1 0 220 
D_LED1 N_1 0 DMOD 

* --------- models ---------

* model file: C:/Users/USER PC/Documents/eagle/gps_tracker_learn/DMOD.mdl
**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic diode intrinsic model
**********************
.MODEL DMOD D


* --------- simulation ---------
.OP



.END










